US07504517B2
Preparation of 1-(methylsulfonylamino)-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone:
A solution of 1-amino-3-[2-(4-methoxyphenyl)-ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride (300 mg, 0.80 mmol) in dichloromethane (3.0 mL) and Hunig's base (0.31 mL, 1.8 mmol) is cooled in an ice bath and methanesulfonyl chloride (0.068 mL, 0.88 mmol) is added dropwise. The reaction is stirred cold for 45 minutes and washed with 0.1 N HCl (2×) and H2O. The organic phase is dried (Na2SO4), and concentrated to a white foam. The crude material is purified over silica (1.5% MeOH/dichloromethane) to afford 161 mg (48% yield) of the desired compound. 1H NMR (CDCl3) δ 7.17 (d, J=8.1 Hz, 1H), 7.07 (m, 2H), 7.00 (m, 2H), 6.85 (m, 3H), 4.45 (t, J=8.1 Hz, 1H), 3.96 (t, J=8.1 Hz, 1H), 3.81 (s, 3H), 3.74 (m, 1H), 3.33 (t, J=8.4 Hz, 1H), 3.06 (s, 3H), 2.97 (m, 1H), 2.76 (m, 1H), 2.67 (m, 1H), 2.30 (s, 6H).). MS 418 (MH+). Anal. Calcd. for C21H27N3O4S¼H2O: C, 59.77, H, 6.57; N, 9.96. Found: C, 59.82, H, 6.06; N, 9.85. FAB-HRMS: anal. calcd for C21H27N3O4S: 418.18005. Found: 418.17960.

reactant | 1-amino-3-[2-(4-methoxyphenyl)-ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride | 0.80 mmol, 300 mg | Cl.NN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O
reactant | Hunig's base | 1.8 mmol, 0.31 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.88 mmol, 0.068 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 1-(methylsulfonylamino)-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone | 161 mg, 48% yield | CS(=O)(=O)NN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O | C21H27N3O4S
